US07544812B2
A solution of [1-(4-methyl-benzyl)-2,5-dioxo-3-propyl-imidazolidin-4-yl]-acetic acid methyl ester (1.67 g, 5.20 mmol) in methanol (40 mL) is treated with aqueous 5 N NaOH (4.4 mL) and heated to reflux 1.5 hour. The reaction mixture is cooled, the solvent removed. The resultant residue is acidified and extracted with EtOAc. The organic layer is dried and dried to afford 1.56 g (98%) [1-(4-methyl-benzyl)-2,5-dioxo-3-propyl-imidazolidin-4-yl]-acetic acid. 1H NMR. MS (ES−) Calc'd for C16H19N2O4 (M−1) 303. Found m/z 303 (100%).

reactant | [1-(4-methyl-benzyl)-2,5-dioxo-3-propyl-imidazolidin-4-yl]-acetic acid methyl ester | 5.20 mmol, 1.67 g | COC(CC1N(C(N(C1=O)CC1=CC=C(C=C1)C)=O)CCC)=O | C17H22N2O4
reactant | NaOH | 5 N, 4.4 mL | [OH-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | [1-(4-methyl-benzyl)-2,5-dioxo-3-propyl-imidazolidin-4-yl]-acetic acid | 1.56 g, 98% | CC1=CC=C(CN2C(N(C(C2=O)CC(=O)O)CCC)=O)C=C1 | C16H20N2O4
